US05538988
A mixture of (-)-6,7-difluoro-2-isothiocyano-1,2,3,4-tetrahydronaphthalene (0.49 g, 2.2 mmol), prepared as in Example 10, and 2,2-dimethoxyethylamine (0.23 g, 2.2 mmol) in DMF was heated at 85° C. under argon for 2.5 hours. The solvent was removed under reduced pressure and the residue was dissolved in 2 to 3 mL of ethanol and 20 mL of 4N hydrochloric acid. The solution was heated at 85° C. for approximately 48 hours and cooled giving a crystalline material. The material was isolated by filtration and dried. Purification by column chromatography on silica gel (elution: 3% methanol/methylene chloride) gave (-)-6,7-difluoro-1-(1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione (0.225 g, 0.84 mmol), m.p. 200°-205° C. [α]D25 -77.9° , (C=0.6, 2:1 CHCl3 /CH2OH).

reactant | (-)-6,7-difluoro-2-isothiocyano-1,2,3,4-tetrahydronaphthalene | 2.2 mmol, 0.49 g | FC=1C=C2CCC(CC2=CC1F)N=C=S | C11H9F2NS
reactant | 2,2-dimethoxyethylamine | 2.2 mmol, 0.23 g | COC(CN)OC | C4H11NO2
solvent | DMF | CN(C)C=O | C3H7NO
product | (-)-6,7-difluoro-1-(1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione | 0.84 mmol, 0.225 g | FC=1C=C2CCC(CC2=CC1F)N1C(NC=C1)=S | C13H12F2N2S
